US06093718
4-Chloropyrimidine hydrochloride (3.5 g) was added to a stirred suspension of 1-benzyl-4-[4-piperidylcarbonyl]piperazine (6.6 g), triethylamine (12.8 ml) and ethanol (120 ml). The mixture was heated under reflux for four hours and evaporated in vacuo to yield a treacle like substance. The residue was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried (Na2SO4) and evaporated. The residue was absorbed onto alumina and purified using dry flash chromatography eluting with increasingly polar mixtures of dichloromethane and methanol (1:0 to 98:2). The material obtained was triturated with diethylether to give 1-(benzyl)-4-[1 -(4-pyrimidinyl)-4-piperidylcarbonyl]piperazine (3.8 g, 45% yield), mp 107-108.5° C.;

reactant | 4-Chloropyrimidine hydrochloride | 3.5 g | Cl.ClC1=NC=NC=C1
reactant | 1-benzyl-4-[4-piperidylcarbonyl]piperazine | 6.6 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CCNCC1 | C17H25N3O
reactant | triethylamine | 12.8 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 1-(benzyl)-4-[1 -(4-pyrimidinyl)-4-piperidylcarbonyl]piperazine | 3.8 g, 45% yield | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC=C1 | C21H27N5O
